US08314107B2
To a stirred mixture of 4-(methoxycarbonyl)benzoic acid (1 g, 5.55 mmol) in anhydrous N,N-dimethylormamide (5 mL) was added triethylamine (2.6 ml, 18.32 mmol), HATU (2.32 g, 6.11 mmol), and 4-((4-aminopiperidin-1-yl)methyl)benzonitrile as its HCl salt (1.6 g, 5.55 mmol). The mixture was stirred at room temperature overnight and then poured into water. The resulting solids were collected by filtration, purified by column chromatography to yield 0.91 g (44%) of methyl 4-(1-(4-cyanobenzyl)piperidin-4-ylcarbamoyl)benzoate as a white solid. LCMS (m/z): 379 (MH+).

reactant | 4-(methoxycarbonyl)benzoic acid | 5.55 mmol, 1 g | COC(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O4
reactant | triethylamine | 18.32 mmol, 2.6 ml | C(C)N(CC)CC | C6H15N
reactant | HATU | 6.11 mmol, 2.32 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-((4-aminopiperidin-1-yl)methyl)benzonitrile | NC1CCN(CC1)CC1=CC=C(C#N)C=C1 | C13H17N3
reactant | HCl | 5.55 mmol, 1.6 g | Cl | ClH
solvent | water | O | H2O
product | methyl 4-(1-(4-cyanobenzyl)piperidin-4-ylcarbamoyl)benzoate | 0.91 g, 44% | C(#N)C1=CC=C(CN2CCC(CC2)NC(=O)C2=CC=C(C(=O)OC)C=C2)C=C1 | C22H23N3O3
